US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3,4-dichlorophenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.3 g--see Preparation 8), 3,4-dichlorophenethyl bromide (0.27 g--see Preparation 14), anhydrous potassium carbonate (0.4 g) and acetonltrile (10 ml) was heated under reflux for 4 hours. On cooling to room temperature, water (40 ml) was added and the resulting mixture extracted with dichloromethane (3×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a foam which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 7%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield, 0.22 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.3 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 3,4-dichlorophenethyl bromide | 0.27 g | ClC=1C=C(CCBr)C=CC1Cl | C8H7BrCl2
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 40 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3,4-dichlorophenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC(=C(C=C1)Cl)Cl | C26H26Cl2N2O
